US07435837B2
Treatment of {7-[3,5-bis(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl methyl 4-methylbenzenesulfonate (0.75 g, 1.45 mmol) with sodium azide (0.24 g, 3.62 mmol) generally according to the procedure described for Intermediate 98 provided (±)-2-(azidomethyl)-7-[3,5-bis(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran. Treatment of the azide with palladium on carbon (10%, 0.075 g) generally according to the procedure described for Example 1 afforded 0.270 g (47%) of (±)-1-{7-[3,5-bis(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methanamine as a white solid, hydrochloride salt. mp 174-175° C. (dec.); Anal. calcd. for C17H13F6NOHCl: C, 51.34; H, 3.55; N, 3.52. Found: C, 51.25; H, 3.57; N, 3.68.

reactant | sodium azide | 3.62 mmol, 0.24 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-2-(azidomethyl)-7-[3,5-bis(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=CC=C2C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C17H11F6N3O
reactant | azide | [N-]=[N+]=[N-]
catalyst | palladium on carbon | 0.075 g | [Pd] | Pd
product | (±)-1-{7-[3,5-bis(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methanamine | 0.270 g, 47% | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=CC=CC=2CC(OC21)CN)(F)F | C17H13F6NO
